US05032583
3-Aza-2-oxabicyclo[2.2.1]heptane-3-carboxylic acid, (phenylmethyl) ester
Azodicarbonamide (5.0 g) was stirred with a solution of potassium hydroxide (7.0 g) in water (12 ml) at 4°. After stirring in the ice bath for 1 h the mixture was diluted with ice/water (30 ml) and the solution was filtered. The filtrate was diluted with cool (2°) ethanol (100 ml) and the resultant solid was filtered off, washed with ethanol, methanol and ether to give potassium azodicarboxylate (6.9 g). This was then mixed with 3-aza-2-oxabicyclo[2.2.1]hept-5-ene-3-carboxylic acid, (phenylmethyl) ester (0.82 g) in dry pyridine (60 ml), and acetic acid (2.02 g) was added with stirring at room temperature. After one hour a further portion of glacial acetic acid (2.02 g) was added and the reaction mixture was stirred for 15.5 h. The mixture was evaporated to dryness under reduced pressure. Further acetic acid was then added to quench the remaining yellow colour of the diimide precursor. The residue was partitioned between 0.5M citric acid (75 ml) and ethyl acetate (75 ml) and the organic phase was separated, dried, and concentrated in vacuo. The residue was purified by FCC eluting with ethyl acetate:cyclohexane (1:2) to give the title compound (0.69 g) as an oil.

reactant | 3-aza-2-oxabicyclo[2.2.1]hept-5-ene-3-carboxylic acid, (phenylmethyl) ester | 0.82 g | C12ON(C(C=C1)C2)C(=O)OCC2=CC=CC=C2 | C13H13NO3
reactant | acetic acid | 2.02 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 2.02 g | C(C)(=O)O | C2H4O2
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 3-Aza-2-oxabicyclo[2.2.1]heptane-3-carboxylic acid, (phenylmethyl) ester | 0.69 g | C12ON(C(CC1)C2)C(=O)OCC2=CC=CC=C2 | C13H15NO3
